US08378104B2
Step D: 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2-benzothiazole
A solution of trisbenzylideneacetone dipalladium (0) (1.38 g, 1.51 mmol) and tricyclohexylphosphine (1.69 g, 6.0 mmol) in degassed 1,4-dioxane (120 mL) was spared with nitrogen for 10 min. 4,4,5,5,4′,4′,5′,5′-Octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (8.3 g, 33 mmol), potassium acetate (3.9 g, 40 mmol) and 7-bromo-1,2-benzothiazole (5.4 g, 25 mmol) were added and the resultant solution was heated to 90-95° C. overnight under nitrogen. The reaction mixture was cooled to RT, filtered, and concentrated. The residue was triturated with hot hexanes (2×) and filtered to afford the title compound. 1H NMR (300 MHz, CDCl3): δ 1.40 (s, 12 H), 7.42 (d, J=5.9 Hz, 1H); 8.04 (d, J=5.7 Hz, 1H); 8.21 (d, J=6.9 Hz, 1H); 8.99 (s, 1H).

reactant | tricyclohexylphosphine | 6.0 mmol, 1.69 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | 4,4,5,5,4′,4′,5′,5′-Octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 33 mmol, 8.3 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 40 mmol, 3.9 g | C(C)(=O)[O-].[K+]
reactant | 7-bromo-1,2-benzothiazole | 25 mmol, 5.4 g | BrC1=CC=CC=2C=NSC21 | C7H4BrNS
solvent | 1,4-dioxane | 120 mL | O1CCOCC1 | C4H8O2
product | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2-benzothiazole | CC1(OB(OC1(C)C)C1=CC=CC=2C=NSC21)C | C13H16BNO2S
